US08426411B2
Phosphoric acid (11.40 mL, 196 mmol) was added to a flask containing water (500 mL). The solution was stirred for about 5 min. (1S,2R,4S)-4-(dibenzylamino)-2-methylcyclopentanecarboxylate•(R)-1-phenylethanamine (83 g, 187 mmol) was added to the solution in small portions. MTBE (500 mL) was added and the contents were mixed well, dissolving the solid. The phases were settled and separated. The aqueous layer was back extracted with MTBE (150 mL). The combined organic phases were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to afford (1S,2R,4S)-4-(dibenzylamino)-2-methylcyclopentanecarboxylic acid (60 g, 99%) as an oil: HPLC (Table 1, Method x) Rt=4.57 min.

reactant | Phosphoric acid | 196 mmol, 11.40 mL | P(O)(O)(O)=O | H3O4P
reactant | water | 500 mL | O | H2O
reactant | (1S,2R,4S)-4-(dibenzylamino)-2-methylcyclopentanecarboxylate•(R)-1-phenylethanamine | 187 mmol, 83 g | C(C1=CC=CC=C1)N([C@H]1C[C@H]([C@H](C1)C(=O)[O-])C)CC1=CC=CC=C1.C1(=CC=CC=C1)[C@@H](C)N
solvent | MTBE | 500 mL | CC(C)(C)OC | C5H12O
product | (1S,2R,4S)-4-(dibenzylamino)-2-methylcyclopentanecarboxylic acid | 60 g, 99% | C(C1=CC=CC=C1)N([C@H]1C[C@H]([C@H](C1)C(=O)O)C)CC1=CC=CC=C1 | C21H25NO2
